US09359375B2
The mixture of 2-tributylstannylthiazole (2.24 g, 6.00 mmol), 5-iodopyridin-3-ylamine (1.10 g, 5.00 mmol) and Pd(Ph3P)4 (580 mg, 0.5 mmol) in 50 mL toluene was degassed using Ar. The mixture was then stirred under Ar at 115° C. for 3 h. The mixture was concentrated and subjected to flash column (0 to 7% MeOH in DCM) to isolate 5-(thiazol-2-yl)pyridin-3-amine (740 mg, 84% yield).

reactant | 2-tributylstannylthiazole | 6.00 mmol, 2.24 g | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | 5-iodopyridin-3-ylamine | 5.00 mmol, 1.10 g | IC=1C=C(C=NC1)N | C5H5IN2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 0.5 mmol, 580 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(thiazol-2-yl)pyridin-3-amine | 740 mg, 84% yield | S1C(=NC=C1)C=1C=C(C=NC1)N | C8H7N3S
